US08895580B2
2-(2-Methylphenyl)-5-[(5-phenylpyridin-2-yl)methyl]-2,5-dihydro-3H-pyrazolo[4,3-c]quinolin-3-one
Using the procedure described in Example 95, substituting 5-[5-bromopyridin-2-yl)methyl]-2-(2-methylphenyl)-2,5-dihydro-3H-pyrazolo[4,3-c]quinolin-3-one for 5-[(4-bromo-2-fluorophenyl)methyl-6,9-difluoro-2-(2-fluorophenyl)-2,5-dihydro-3H-pyrazolo[4,3-c]quinolin-3-one, and, substituting phenylboronic acid for 1-iso-butyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole, the titled compound was obtained: 1H-NMR (400 MHz, CD3OD) δ 9.03 (1H, s), 8.77 (1H, s), 8.36-8.33 (1H, m), 8.10-8.07 (1H, m), 7.85 (1H, d, J=8.8 Hz), 7.68-7.37 (12H, m), 5.93 (2H, s), 2.29 (3H, s), ppm; low resolution mass spectrometry (ES+) m/z 442.9 [(M+H)+; calculated for C29H22N4O: 443.2].

reactant | 2-(2-methylphenyl)-2,5-dihydro-3H-pyrazolo[4,3-c]quinolin-3-one | CC1=C(C=CC=C1)N1N=C2C(=CNC=3C=CC=CC23)C1=O | C17H13N3O
reactant | (4-bromo-2-fluorophenyl)methyl-6,9-difluoro-2-(2-fluorophenyl)-2,5-dihydro-3H-pyrazolo[4,3-c]quinolin-3-one | BrC1=CC(=C(C=C1)CC=1NC=2C(=CC=C(C2C=2C1C(N(N2)C2=C(C=CC=C2)F)=O)F)F)F | C23H12BrF4N3O
reactant | phenylboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | 1-iso-butyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | C(C(C)C)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C13H23BN2O2
product | 2-(2-Methylphenyl)-5-[(5-phenylpyridin-2-yl)methyl]-2,5-dihydro-3H-pyrazolo[4,3-c]quinolin-3-one | CC1=C(C=CC=C1)N1N=C2C(=CN(C=3C=CC=CC23)CC2=NC=C(C=C2)C2=CC=CC=C2)C1=O | C29H22N4O
